Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
chest pain, shortness of breath
 
Major Surgical or Invasive Procedure:
Dialysis on ___ and ___
 
History of Present Illness:
___ yo M with h/o DM II c/b ESRD on HD, atrial fibrillation not 
on coumadin, recently admitted for chest pain and hypoxia, 
presenting with chest pain and shortness of breath.  Patient 
reports that since discharge, he has seen his PCP, ___, 
___ was feeling relatively well.  He notes that the night prior 
to admission, he had the acute onset of shortness of breath, 
with heart palpitations and chest pain ___ on left, radiating 
down his left arm.  He had had frequent episodes since discharge 
but none as intense.  He reports that coughing makes the pain 
worse, nothing makes it better.  It is constant.  

He believes the coughing is a representation of having too much 
fluid.  Patient reports that prior to onset of shortness of 
breath and chest pain, he had been at dialysis where 5L fluid 
were removed (more than usual).  After dialysis, he could barely 
walk because of extreme right calf pain, which he describes as a 
stretching/swelling sensation.  

Patient reports that he has not used cocaine in "several weeks." 
 He believes the last time was prior to his last admission, at 
least 1.5 weeks ago.  His partner, ___, believes this to be 
true as well, though she can not be entirely sure. 

In the ED, initial vital signs were ___ 18 94% RA. 
Patient triggered for atrial fibrillation with RVR to the 150s. 
Patient was given 30mg oral diltiazem with rats down to ___. He 
also received morphine for chest pain and aspirin 325mg.  Given 
complaints of RLE pain, ___ was performed.  Preliminary read 
was negative for DVT.  

On admission, initial vital signs were 97.8 145/79 90 28 100% 3L 
NC.

Review of sytems:  
(+) As above.

(-) Denies fever, chills.  Denies hemoptysis.  Does not make any 
urine.  Denies diarrhea, constipation, abdominal pain, melena or 
hematochezia.  All else negative on 10 point review of systems
 
Past Medical History:
1. ESRD on HD ___ at ___ Dialysis, ___, 
___  
2. Type 2 diabetes mellitus c/b peripheral neuropathy  
3. Chronic systolic CHF with EF 30% ___ TTE)  
4. Atrial fibrillation/AFlutter  
- s/p ablation ___ s/p ablation x 2 in ___  
- not on coumadin due to history of GIBs.  
5. Hypertension  
6. Dyslipidemia  
7. History of GI bleeds: Duodenal, jejunal, and gastric AVMs s/p 

thermal therapy; diverticulosis throughout colon  
8. Chronic pancreatitis  
9. ? HCV: HCV Ab + ___, but neg ___  
10. GERD  
11. Gout: s/p arthroscopy with medial meniscectomy ___  
12. Depression with multiple hospitalizations due to SI  
13. Polysubstance abuse: crack cocaine, EtOH, tobacco  
14. recurrent chest pain following crack/cocaine use  
- no evidence CAD on cath ___  
15. Erectile dysfunction s/p inflatable penile prosthesis ___ 

16. H/o C diff in ___ 
17.thyrotoxicosis
 
Social History:
___
Family History:
Mother died of MI; per OMR multiple sibs with T2DM
 
Physical Exam:
Admission Physical Exam:  
Vitals- 97.8 145/79 90 28 100% 3L NC
Weight 70.5 kg (dry weight 67kg)
General- Elderly gentleman, in NAD, intermittently agitated and 
yelling at partner  
___ anicteric, PERRL, EMOI, MMM, oropharynx clear  
Neck- supple, JVP to 7 cm, no LAD  
Lungs- good air movement bilaterally, course crackles in 
bilateral bases, left>right
CV- irregularly irregular rhythm, normal rate, normal S1/S2, no 
m/r/g 
Abdomen- +BS, nontender, nondistended, no HSM
Ext- warm, well perfused, 2+ ___ pulses, no clubbing, 
cyanosis. 1+ pedal edema bilaterally.  Tenderness to palpation 
of right calf. 
Neuro- A+O x 3, CN intact, strength ___ bilaterally

Discharge Physical Exam:
Vitals- 97.3-98.9, 99-117/47-89, 90-130s, 100% 2L and RA 
Weight 63.2 <- 66.8 (dry weight 67kg)
General-  ___  
___- Sclera anicteric, PERRL, EMOI, MMM, oropharynx clear  
Neck- supple, JVP to 7 cm, no LAD  
Lungs- good air movement bilaterally. No W/C/R
CV- irregularly irregular rhythm, normal rate, normal S1/S2, no 
m/r/g 
Abdomen- +BS, nontender, nondistended, no HSM
Ext- warm, well perfused, 2+ ___ pulses, no clubbing, 
cyanosis. 1+ pedal edema bilaterally.  Tenderness to palpation 
of right calf. 
Neuro- A+O x 3, CN intact, strength ___ bilaterally
 
Pertinent Results:
Admission Labs:  
WBC 6.7 Hgb 10.9  Hct 35.4 Plts 174  
 N:74.3 L:16.0 M:6.5 E:1.9 Bas:1.3 
.
141  95  31  
-------------< 167 
5.6  28  6.7  
.
Ca: 10.0 Mg: 2.4 P: 5.1 ___
.
___: 39145
.
Lactate:1.9
CK: 121  MB: 7  Trop-T: 0.58 

Discharge:
___ 04:45AM BLOOD WBC-7.2 RBC-4.05* Hgb-11.9* Hct-37.5* 
MCV-93 MCH-29.4 MCHC-31.7 RDW-17.3* Plt ___
___ 04:45AM BLOOD Glucose-169* UreaN-25* Creat-5.3*# Na-133 
K-5.1 Cl-92* HCO3-25 AnGap-21*

___ 04:45AM BLOOD Calcium-9.1 Phos-5.1*# Mg-2.4
___ 09:40AM BLOOD Digoxin-0.7*

Microbiology:  
Blood culture ___- pending x 2
  
Imaging:  
CXR ___- pending read; however appears to be worsening 
pulmonary edema compared to prior. 

Right ___ ___- Blunted Vaslsalva response on both the left and 
right common femoral venous waveforms is also seen on the ___ examination. A more central thrombus cannot be assessed 
wtih this technique. There is no DVT within the right lower 
extremity.  

EKG: atrial fibrillation at rate of 141, nonspecific T wave 
flattening in I/avL, V5-V6 unchanged from prior (when patient 
was also in rapid afib)

CHEST (PA & LAT)Study Date of ___ 4:44 ___
FINDINGS: In comparison with study of ___, there is continued 
enlargement of the cardiac silhouette, though the diffuse 
bilateral pulmonary opacifications have essentially cleared. 
Mild blunting of the right costophrenic angle is again seen on 
the frontal view.
 
Brief Hospital Course:
___ yo M with a h/o cocaine abuse, ESRD on HD, afib with RVR, 
with frequent admissions for SOB/chest pain presenting with 
SOB/chest pain.

# Chest pain- Persistent through hospital course, with 
improvement in standing tylenol and PRN oxycodone.  Likely due 
to persistent cough: pleuritic vs musculoskeletal 
(costochondritis) from straining muscles to cough.  Initially, 
possibly related to demand ischemia in setting of atrial 
fibrillation with rapid ventricular response. Trigger for rapid 
response appears to be volume overload, as CXR shows worsening 
pulmonary edema. Also may be that atrial fibrillation has caused 
flash pulmonary edema to occur.  Troponins elevated, but likely 
related to ESRD, not higher than his baseline, and CKMB flat, so 
low suspicious for acute coronary syndrome.  Patient has not 
used cocaine recently per his report (2 weeks ago), but given 
history, may be intermittent vasospasm.  Last catheterization 
was in ___ and did not show any coronary artery disease.  Low 
suspicion for pulmonary embolism and preliminary ___ read 
negative for DVT.  We avoided NSAIDs given history of GI bleed.  
We provided nitroglycerin SL prn chest pain.  

# Pulmonary edema by exam (elevated JVP, basilar crackles), and 
CXR with worsening edema.  Dry weight 67kg, now 70.5kg, at 
discharge was 63.2kg.  Patient was weaned off the nasal canula 
and fluid restricted to 1200cc

# Atrial fibrillation with RVR- CHADS 2 of 3.  Not 
anticoagulated due to previous GI bleeds.  On ER diltiazem 420mg 
po daily and digoxin with dialysis. Patient has had digoxin 
dosing altered as was high during previous admission.  Atrial 
fibrillation may have been triggered by volume status (or caused 
worsening pulmonary edema), or may be due to changing dose of 
digoxin and patient is now subtherapeutic: 0.7.  Patient was 
given PO diltiazem 90mg QID for titration.  On the final full 
day in house following dialysis, patient had HRs in the 150s 
(had missed 2 doses of diltiazem while in dialysis) and was 
given an extra 10mg IV diltiazem and was increased to 105mg QID. 
 Patient also had 1 9 beat run of NSVT which was asymptomatic 
but seen on telemetry.  Beta blockers were not used for 
hypothetical reaction with cocaine use.

# ESRD- On HD ___.  5L removed during ___ dialysis.  
4L on ___ and an unclear amount on ___, although 
patient's CXR improved and he was down below his previous dry 
weight at 63.2kg at discharge.  We continued sevelamer, 
nephrocaps, and cinacalcet

# DMII- We continued home lantus with humalog sliding scale and 
diabetic diet.  QACHS ___ were in the mid ___ range, occasionally 
in the 200s and corresponding to patient eating snacks.  We 
encouraged patient not to snack during night.

# Diabetic neuropathy-  We continue gabapentin 100mg po TID
  
# Rash on chest: From previous notes: "Likely acneiform cysts.  
One option would be doxycycline that he can take twice daily.  I 
would like to start him on 100 mg twice daily.  He can continue 
using his selenium sulfide wash, and if this does not work there 
is also the option of starting Accutane."  Patient was itching 
on back, although there was no evidence of nodular eruptions on 
the back.  Bilirubin was normal.  Unclear what was the 
precipitant.  We monitored and patient was given Sarna lotion at 
d/c.

# Transitional issues-
- Dialysis per renal team: ___
- Patient discharged with standing tylenol for chest pain which 
is most likely costochondritis.  
 
Medications on Admission:
# aspirin 325 mg po daily  
# diltiazem HCl 420 mg ER po daily
# digoxin 125 mcg po every other day, with dialysis
# insulin glargine 100 unit/mL Solution 14 units qHS
# humalog 100 unit/mL Solution QACHS per sliding scale
# albuterol sulfate 90 mcg INH q6h prn SOB/wheezing
# sevelamer carbonate 800 mg 4 tabs po TID w/meals
# cinacalcet 30 mg 3 tabs po daily 
# B complex-vitamin C-folic acid 1 mg po daily
# gabapentin 100 mg po TID
# hydroxyzine HCl 25 mg po q6h prn pruritus
# zolpidem 5 mg po qHS prn insomnia
# docusate sodium 100 mg po BID
# oxycodone-acetaminophen ___ mg po BID prn pain
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation every six (6) hours as needed for SOB.  
3. cinacalcet 30 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
5. hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pruritus.  
6. sevelamer carbonate 800 mg Tablet Sig: Four (4) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. gabapentin 100 mg Capsule Sig: One (1) Capsule PO three times 
a day.  
10. digoxin 125 mcg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
11. insulin glargine 100 unit/mL Solution Sig: Fourteen (14)  
Subcutaneous at bedtime.  
12. Humalog 100 unit/mL Solution Sig: Per sliding scale  
Subcutaneous qachs.  
13. diltiazem HCl 420 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO once a day.  
14. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO twice a day as needed for pain.  
15. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours) for 4 weeks.
Disp:*45 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
ESRD
Costochondritis
Secondary:
Atrial fibrillation
Hypertension
Substance abuse.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
admission.

You were admitted because of shortness of breath and chest pain. 
 This was likely because  you had too much fluid in your body, 
including in your lungs.  Tests showed that there was no acute 
injury to your heart.  

The following changes were made to your medication regimen:
Please START Tylenol ___ three times daily to control your 
pain.
Do not exceed 4000mg of tylenol a day.  Do not take more than 
your prescribed amount of oxycodone/ acetaminophen.
 
Followup Instructions:
___